US04752648
(preparation of dicyclohexylthiophosphinic acid chloride)
A solution of 23 g (0.1 mol) dicyclohexylphosphine sulfide in 50 ml toluene was dropped into a suspension of 21 g (0.1 mol) PCl5 in 50 ml toluene. The reaction was exothermal and reached a maximum temperature of 35° C. After 4 hours, the low boilers were removed from the clear yellowish solution under vacuum. Yield: 24.3 g (91.5% of the theoretical). 31P-NMR: δ P=119.3 ppm.

reactant | dicyclohexylphosphine sulfide | 0.1 mol, 23 g | C1(CCCCC1)P(C1CCCCC1)=S | C12H23PS
reactant | PCl5 | 0.1 mol, 21 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | dicyclohexylthiophosphinic acid chloride | C1(CCCCC1)P(=S)(C1CCCCC1)Cl | C12H22ClPS
